US03980788
The above prepared 1-(9-xanthenyl)-3-(N-carbethoxy-N-methylamino)piperidine (4.5 g.) is refluxed with 100 ml. of a 5M solution of potassium hydroxide in 80 percent aqueous ethanol for three hours. The resulting solution is concentrated in vacuo and the residue poured into cold water. This mixture is extracted with methylene chloride and the organic phase is washed with water and dried over anhydrous potassium carbonate. Evaporation of the solvent gives 1-(9-xanthenyl)-3-methylaminopiperidine.

reactant | 1-(9-xanthenyl)-3-(N-carbethoxy-N-methylamino)piperidine | 4.5 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)N1CC(CCC1)N(C)C(=O)OCC | C22H26N2O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(9-xanthenyl)-3-methylaminopiperidine | C1=CC=CC=2OC3=CC=CC=C3C(C12)N1CC(CCC1)NC | C19H22N2O
